US06358995B1
(F) 4,7-Difluoro-2-hydroxymethylbenzofuran
252 mg of 2-acetoxymethyl-4,7-difluorobenzofuran was dissolved in 5 ml of methanol and 455 mg of potassium carbonate was added to the solution at room temperature. The resulting mixture was stirred at the same temperature for 2 hours, followed by the addition of ethyl acetate thereto. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The resulting residue was subjected to silica gel chromatography (developer: 5% ethyl acetate/n-hexane) to give 161 mg of the title compound as a colorless oil.

reactant | 2-acetoxymethyl-4,7-difluorobenzofuran | 252 mg | C(C)(=O)OCC=1OC2=C(C1)C(=CC=C2F)F | C11H8F2O3
reactant | potassium carbonate | 455 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 4,7-Difluoro-2-hydroxymethylbenzofuran | 161 mg | FC1=CC=C(C2=C1C=C(O2)CO)F | C9H6F2O2
